Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Psychiatry consulted by ED team for
pt who was referred by therapist ___ at ___ following an
incident last night in which he had his pants down and was
yelling sexual obscenities.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is a ___ M with a history of schizophrenia with 1 prior
hospitalization who was referred by therapist ___ at ___
following an incident last night in which he had his pants down
and was yelling sexual obscenities. Pt lives at a group home in
___ and per the clinical director ___ ___ pt has been hypersexual with a number of patients
including thrusting behaviors etc. The home is planning on
expelling him on ___ as a result of these incidents. Pt 
denies
these incidents, claiming his pants were sagging, etc. There is
an open investigation into these incidents. 

Pt denies recent changes in mood, sleep, interest, energy,
appetite, weight, concentration, and memory. Pt denies SI/HI,
history of mania, panic symptoms and anxiety. He minimizes his
prior psych history to a single incident, but on further
questioning he has a history of paranoia. He denies recent
worsening of paranoia, IOR, TC, TB. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: ___ Recovery ___
Current treaters and treatment: ___ pt, Invega Sustenna 117
qmonth last received ___.
Medication and ECT trials: Unknown
Self-injury: denies
Harm to others: hit brother resulting in ___ hospitalization,
hypersexual behavior per HPI
Access to weapons:denies

PAST MEDICAL HISTORY:
None

MEDICATIONS including vitamins, herbs, supplements, OTC: Invega
Sustenna 117, Colace, cogentin
ALLERGIES: NKDA

 
Social History:
SOCIAL HISTORY:
- B/R: ___. 2 brothers
- Family: Dad cell: ___ Mom ___: ___
- Education: Graduated high school
- Employment: ___
- Living Situation: Lives at ___ home but will be
evicted per HPI. 
- Relationships/Marriages/Children/Pets: single. Lives in group
home as above.
- Trauma: denies any physical/sexual abuse
- Religion: ___
- Legal (Arrests/Probations/Prison): Hx of being held overnight
for "annoying the police" but pt denies this as a true arrest.
Patient also describes episode of going to Court after hitting
his brother but brother is alive with no medical complications
from incident. He notes that at that time he was found
incompetent for trial due to his Schizophrenia. No ongoing legal
issues
- Access to Weapons: none. Pt states that he feels safe in the
group home and that they have a system for ensuring that knives
and scissors are hidden.

SUBSTANCE ABUSE HISTORY:
Pt endorses occasional alcohol use (2 beers several weeks ago)
with 1 hospitalization due to intoxication. No hx withdrawal
complications. Is daily MJ user, denies other illicit 
substances.
Smokes ___ cigarettes/day. 

FORENSIC HISTORY:
Arrests: arrested for "annoying the police" held overnight
Convictions and jail terms:none
Current status (pending charges, probation, parole)

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
Denies
 
Physical Exam:
___: Weight: 168 (Estimated) (Entered in Nursing IPA)
___: Height: 68 (Patient Reported) (Entered in Nursing IPA)
___: BMI: 25.5
*VS:  BP: 155/76    HR: 68    temp: 98.5  resp: 18  O2 sat: 100 
height: ___
weight: 199 lbs
  
Neurological:
    *station and gait: Both WNL, narrow-based
    *tone and strength: Normal tone; strength grossly WNL, 
moving
all 4 extremities freely anti-gravity
    cranial nerves: PER, EOMI, face grossly symmetrical, moves
facial musculature grossly symmetrically, not drooling nor
dysarthric, hearing grossly intact, voice not hoarse, turns 
heads
and shrugs shoulders freely
    abnormal movements: No abnormal movements noted, no tremor

Mental Status Exam:
  *Appearance: tall well-built ___ male, calm and
polite with good eye contact. Cooperative behavior and linear
historian. Well groomed. 
  * Behavior: Cooperative, well-related, appropriate eye 
contact;
no notable PMR or PMA
  * Speech: Normal rate/tone/volume; prosody intact
  * Mood: "normal, a little anxious"
  * Affect: Flat
  * Thought process: linear
  * Thought Content: +paranoia as per HPI ("that people are
thinking something negative"). Denies SI/HI/AVH/IOP/TC/TP
  *Judgment/Insight: poor / fair

Cognition:
    *Arousal level & orientation: A&O x 3 to name, date, place
    *Memory: ___ immed recall, ___ delayed recall 
    *Attention: Intact to MOYB
    *Calculations: $1.75= 7 quarters 
    *Language: Fluent, no paraphasic errors, prosody intact

Gen: NAD
Cardiac: RRR
Chest: CTAB, normal work of breathing
Abdom: soft, non-tender
Extremities: warm and dry
 
Pertinent Results:
___ 05:30PM   GLUCOSE-88 UREA N-19 CREAT-1.1 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-25 ANION GAP-16
___ 05:30PM   WBC-4.1 RBC-4.72 HGB-13.7 HCT-40.5 MCV-86 
MCH-29.0 MCHC-33.8 RDW-13.2 RDWSD-41.1
___ 05:30PM   ALT(SGPT)-10 AST(SGOT)-15 ALK PHOS-83 TOT 
BILI-0.7
___ 05:30PM   LIPASE-13
___ 05:30PM   ALBUMIN-4.8
___ 05:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
SAFETY: The patient was placed on Q15 minute checks on admission 
and remained on that level of observation throughout.  Patient 
was unit-restricted.  There were no acute safety issues during 
this hospitalization.

LEGAL: ___
PSYCHIATRIC:
On admission to the inpatient unit, patient denied engaging in 
any sexually-inappropriate behaviors at his group home, either 
recently or in the past as his group home had reported.  He felt 
his sexual urges were under control and had not been increasing 
in intensity of frequency.  The patient also denied AVH, 
paranoia, changes in mood, SI or HI. Patient felt his thoughts 
had been organized (thought disorganization was formerly a 
prominent symptom of his schizophrenia exacerbations) but 
reported that he occasionally blocks things out/does not pay 
attention to things that bother him, especially in the setting 
of recent twice-daily marijuana use.  During admission patient 
remained in good behavioral control and exhibited no sexually 
provocative/inappropriate gestures or speech.  Home medications 
were continued, including Cogentin, vitamin D and Colace.  
Patient had last received his monthly Invega Sustenna ___ on 
___ and did not require further dosing while admitted (next 
due on ___.  Extensive counseling was provided on marijuana 
cessation and patient was encouraged to attend substance use 
support groups while on the unit.  Due to his reported 
hypersexual behaviors the patient was evicted from his group 
home during the time he was admitted to Deac4, however his 
father agreed to let the patient live with him in ___ and 
picked him up on the day of discharge.  Patient was set-up with 
outpatient follow-up (w/ therapist and new psychiatric provider 
at ___ and provided with paper prescriptions.  The 
patient's current presentation was felt to be most consistent 
with a substance-induced exacerbation of disinhibition, 
impulsivity and poor judgment, on the background of chronic 
Schizophrenia.  Notably, the patient did not appear grossly 
psychotic and he exhibited no hypersexual or inappropriate 
behaviors in the setting of abstinence from substance use.

GENERAL MEDICAL CONDITIONS:
Patient was continued on home Colace and vitamin D.
 
PSYCHOSOCIAL:
#) GROUPS/MILIEU: Patient was encouraged to participate in the 
unit’s groups/milieu/therapy opportunities. He attended the 
majority of groups and was noted to participate appropriately.  
Often seen conversing with staff.  Use of coping skills and 
mindfulness/relaxation methods were encouraged. Therapy 
addressed family/social/work issues.

#) COLLATERAL CONTACTS/FAMILY CONTACTS:
Collateral was obtained from father, director of group home and 
director of The Spot program
Family discussions were held with the patient, father, social 
work, nursing and treatment team MDs that focused 
psychoeducation and discharge planning.

#) INTERVENTIONS:
- Medications: home Cogentin
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: by treatment team and outpatient 
providers

INFORMED CONSENT:  No new medications were started during this 
hospitalization. 

RISK ASSESSMENT: 
#) Chronic/Static Risk Factors: age, male gender, chronic mental 
illness, history of substance use

#) Modifiable Risk Factors:
Recent, active, daily substance use - modified by providing a 
drug-free environment, drug-use counseling and unit AA/SMART 
recovery meetings

#) Protective Factors:
Medication adhearance (monthly Invega injections); connection to 
outpatient treaters; social support (parents); no active mood 
disturbance or suicidal ideation; no active psychosis; 
connection to stable living situation (with father)

PROGNOSIS:
Patient presented with significant reported behavioral 
disturbances that interfered with psychosocial functioning. 
Prognosis is guarded due to concern for continued substance use 
in the outpatient setting, however is improved by connection to 
outpatient treaters, social support and depot antipsychotic.  
The patient was taught about warning signs and understands that 
there are many resources, including the emergency department 
that he can follow-up with. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PALIperidone Palmitate 117 mg IM Q1MO (___) 
2. Benztropine Mesylate 1 mg PO QHS 
3. Docusate Sodium 100 mg PO QHS 
4. Vitamin D 400 UNIT PO DAILY 

 
Discharge Medications:
1.  Benztropine Mesylate 1 mg PO QHS 
RX *benztropine 1 mg 1 (One) tablet(s) by mouth at bedtime Disp 
#*7 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO QHS 
RX *docusate sodium 100 mg 1 (One) capsule(s) by mouth at 
bedtime Disp #*7 Capsule Refills:*0 
3.  PALIperidone Palmitate 117 mg IM Q1MO (___)  
4.  Vitamin D 400 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 400 unit 1 (One) tablet(s) by 
mouth once a day Disp #*7 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia
Marijuana Use Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

  *Appearance: tall, athletic-appearing male, well groomed, good 
hygiene, wearing own clothing
  * Behavior: Sitting with arms at side, polite and cooperative, 

appropriate eye contact
  * Speech: Normal rate/volume; prosody intact; monotonous
  * Mood/Affect: 'good' / blunted, mild fluctuations appropriate
to topic of conversation
  * Thought process: linear, goal-directed
  * Thought Content: Denies SI/HI/AVH/IOP/TC/TP/paranoia
  *Judgment/Insight: fair/ fair
  *Memory: grossly intact
  *Attention: grossly intact to interview
  *Language: Fluent, no paraphasic errors, prosody intact
  *station and gait: Both ___

 
Discharge Instructions:
You were hospitalized at ___ for reported concerning behaviors 
in the setting of substance use and concern for worsening 
Schizophrenia.  While you were here we continued your 
medications and arranged a safe discharge plan.  You are now 
ready for discharge with continued treatment with your 
outpatient providers.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
 -Please continue all medications as directed.
 -Please do not misuse alcohol or drugs (whether prescription 
drugs or illegal drugs) as this can further worsen your medical 
and psychiatric illnesses.
 -Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
 -Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___